US06914074B2
7-Phenyl-2-naphthol
The title compound was prepared by reacting 2-methoxy-7-phenylnaphthalene (0.53 g, 2.26 mmol) with pyridinium HCl (10 g) at 190° C. according to method B to yield 0.36 g (72%) of a white solid: mp 142-143° C.; 1H NMR (DMSO-d6): δ 7.10 (1H, dd, J=2.75 Hz, J=8.70 Hz), 7.23 (1H, d, J=2.29 Hz), 7.37-7.40 (1H, m), 7.48-7.51 (2H, m), 7.58 (1H, dd, J=1.83 Hz, 8.70 Hz), 7.78-7.90 (3H, m), 7.86 (1H, d, J=8.24 Hz), 7.99 (1H, d, J=0.92 Hz) 9.81 (1H, s); MS (ESI) m/z 219 (M−H)−.

reactant | 2-methoxy-7-phenylnaphthalene | 2.26 mmol, 0.53 g | COC1=CC2=CC(=CC=C2C=C1)C1=CC=CC=C1 | C17H14O
reactant | pyridinium HCl | 10 g | Cl.[NH+]1=CC=CC=C1
product | 7-Phenyl-2-naphthol | C1(=CC=CC=C1)C1=CC=C2C=CC(=CC2=C1)O | C16H12O
